US04419352
Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate
Ethyl 6-chloro-8-methoxycarbonyl-10-propyl-4-thioxo-4H-pyrano[3,2-g]quinoline-2-carboxylate (0.030 g) in acetone (10 ml) containing water (0.2 ml) and methyliodide (0.1 ml) was stirred in the dark at room temperature for 2 days. Concentration of the reaction mixture gave a light buff solid, which was recrystallised from ethanol to give the title compound (0.015 g), mp 176°-179°.

reactant | Ethyl 6-chloro-8-methoxycarbonyl-10-propyl-4-thioxo-4H-pyrano[3,2-g]quinoline-2-carboxylate | 0.030 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=S)CCC)C(=O)OC | C20H18ClNO5S
reactant | water | 0.2 ml | O | H2O
reactant | methyliodide | 0.1 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ethyl 6-chloro-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2-carboxylate | 0.015 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OC | C20H18ClNO6
